US05108994
9-[2-(Diethoxyphosphorylmethylthio)ethoxy)adenine
A solution of 9-[2-(diethoxyphosphorylmethylthio)ethoxy]-6-phthalimidopurine (0.56 g, 1.lmmol) was cooled to 0°-5° C. and treated with N-methylhydrazine (0.86 g, 1.8 mmol). The mixture was stirred for 1 hour, and then filtered and the solvent was removed in vacuo. The residue was purified by column chromatography on silica gel, using dichloromethane: methanol (97:3) as eluent, to give the title compound (0.3 g, 75%) as colourless crystals after b crystallisation from acetone, m.p. 93°-95° C.; γmax (MeOH) 260nm (ε 12670); υmax (KBr) 3360, 3280, 3140, 2995, 1685, 1610, 1570, 1480, 1410, 1370, 1330, 1300, and 1260cm-1 ; 6H [(CD3)2SO]1.25 (6H. t, J 8Hz 2 × CH3), 3.0 (2H, d, J 13Hz PCH2S), 3.1 (2H, t, J 7Hz, CH2O), 4.1 (4H, m, 2 × CH2), 4.6 (2H, t, J 7Hz, CH2S), 7.4 (2H, br.s, exchangeable with D2O, NH2), 8.15 (1H, s, 2-H), 8.4 (1H, s, 8-H) (Found: C, 39.84; H, 5.51; N, 19.26%; M+ 361.0981. C12H2O N5O4PS requires C, 39.88; H, 5.58; N, 19.38%; M+ 361.0974).

reactant | 9-[2-(diethoxyphosphorylmethylthio)ethoxy]-6-phthalimidopurine | 0.56 g | C(C)OP(=O)(OCC)CSCCON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C20H22N5O6PS
reactant | N-methylhydrazine | 1.8 mmol, 0.86 g | CNN | CH6N2
product | 9-[2-(Diethoxyphosphorylmethylthio)ethoxy)adenine | 0.3 g, 75% | C(C)OP(=O)(OCC)CSCCON1C2=NC=NC(=C2N=C1)N | C12H20N5O4PS
